US07612108B2
Trifluoromethanesulfonic anhydride was added to a pyridine solution of methyl 5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate and the whole was stirred at room temperature to obtain methyl 5-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)thiophene-2-carboxylate. F: 392.

reactant | Trifluoromethanesulfonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | methyl 5-(3-cyano-4-hydroxyphenyl)thiophene-2-carboxylate | C(#N)C=1C=C(C=CC1O)C1=CC=C(S1)C(=O)OC | C13H9NO3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 5-(3-cyano-4-{[(trifluoromethyl)sulfonyl]oxy}phenyl)thiophene-2-carboxylate | C(#N)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C1=CC=C(S1)C(=O)OC | C14H8F3NO5S2
